US07872014B2
To a solution of 2-(5-fluoro-2,3-bis{[2-(methyloxy)ethyl]oxy}phenyl)-3-oxobutanenitrile (0.26 mg, 0.80 mmol) in ethanol (5 mL) was added hydrazine dihydrochloride (105 mg, 0.9 mmol). The resulting mixture was heated at reflux for 1 hour. It was cooled to room temperature then poured into a saturated sodium bicarbonate solution (10 mL) and the mixture was extracted with ethyl acetate (3×10 mL). The combined extract was washed with aqueous sodium bicarbonate solution, brine, dried over sodium sulfate, filtered and concentrated to give an oily residue which was purified by flash chromatography (silica gel, 5% methanol-dichloromethane) to provide 4-(5-fluoro-2,3-bis{[2-(methyloxy)ethyl]oxy}phenyl)-3-methyl-1H-pyrazol-5-amine (0.15 g, 0.45 mmol, 56%) yield 1H NMR (400 MHz, d6-DMSO): 7.06-7.02 (m, 1H), 6.72-6.69 (m, 1H), 4.18-4.16 (m, 2H), 3.83-3.81 (m, 2H), 3.71-3.69 (m. 2H), 3.36-3.64 (m, 2H), 3.32 (s, 3H), 3.10 (s, 3H), 2.16 (s, 3H); MS (EI) for C16H22FN3O4: 340 (MH+).

reactant | 2-(5-fluoro-2,3-bis{[2-(methyloxy)ethyl]oxy}phenyl)-3-oxobutanenitrile | 0.80 mmol, 0.26 mg | FC=1C=C(C(=C(C1)C(C#N)C(C)=O)OCCOC)OCCOC | C16H20FNO5
reactant | hydrazine dihydrochloride | 0.9 mmol, 105 mg | Cl.Cl.NN
reactant | sodium bicarbonate | 10 mL | C([O-])(O)=O.[Na+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 4-(5-fluoro-2,3-bis{[2-(methyloxy)ethyl]oxy}phenyl)-3-methyl-1H-pyrazol-5-amine | 0.45 mmol, 0.15 g, 56% | FC=1C=C(C(=C(C1)C=1C(=NNC1N)C)OCCOC)OCCOC | C16H22FN3O4
